US07196102B2
Step 2) N-((1R)-1-Phenylethyl)[3-(4-methoxyphenyl)-4-methylphenyl]carboxamide:
To a mixture of N-((1R)-1-phenylethyl)(3-bromo-4-methylphenyl)carboxamide (1.38 g, 4.32 mmol) and 4-methoxyphenylboronic acid (0.53 g, 4.32 mmol) in 10 mL of 2M Na2CO3 aq. soln and 20 mL of toluene was bubbled through N2 for 5 min. Catalyst Pd(PPh3)4 (0.36 g, 0.314 mmol) was then added and the mixture was heated to 80 C for 19 hours under N2. The reaction mixture was cooled to RT and was diluted with 100 mL of EtOAc and 50 mL of water. The organic layer was separated and washed with 50 mL of brine, and dried over Na2SO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (CHCl3 to EtOAc) to provide yellow solid (1.0 g, 2.9 mmol, 92%).

reactant | N-((1R)-1-phenylethyl)(3-bromo-4-methylphenyl)carboxamide | 4.32 mmol, 1.38 g | C1(=CC=CC=C1)[C@@H](C)NC(=O)C1=CC(=C(C=C1)C)Br | C16H16BrNO
reactant | 4-methoxyphenylboronic acid | 4.32 mmol, 0.53 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | Na2CO3 | 2M, 10 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | water | 50 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.314 mmol, 0.36 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-((1R)-1-Phenylethyl)[3-(4-methoxyphenyl)-4-methylphenyl]carboxamide | 2.9 mmol, 1.0 g, 92% | C1(=CC=CC=C1)[C@@H](C)NC(=O)C1=CC(=C(C=C1)C)C1=CC=C(C=C1)OC | C23H23NO2
